US08541588B2
To a solution of tert-butyl 4-(5-chloro-2-hydroxyphenyl)piperidine-1-carboxylate (Preparation 231, 0.500 g, 0.0014 mol) and potassium carbonate (0.579 g, 0.00419 mol) in dimethyl sulfoxide (5.0 mL) was added 5-chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 333, 0.644 g, 0.0014 mol). The mixture was stirred at room temperature under nitrogen for 1.5 hours before diluting with ethyl acetate (10.0 mL) and water (10.0 mL). The aqueous layer was extracted with ethyl acetate (3×10.0 mL). The combined organic extracts were washed with saturated aqueous sodium chloride solution (30 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel column) eluting with ethyl acetate:heptane (gradient 0:1 to 35:65, by volume) to afford 1.03 g of tert-butyl 4-[5-chloro-2-(2-chloro-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}-5-fluorophenoxy)phenyl]piperidine-1-carboxylate as a white solid. This material was dissolved in dichloromethane (5.0 mL), trifluoroacetic acid (1.0 mL) added and reaction stirred for 16 hours at room temperature under nitrogen. Methanol (5.0 mL) was added to afford a white precipitate. This suspension mixture was filtered through a Celite™ pad and washed with methanol. The filtrate was concentrated in vacuo and the residue was diluted with methanol (2.0 mL), dichloromethane (2.0 mL) and saturated aqueous sodium bicarbonate (4.0 mL) and stirred for 1 hour at room temperature to afford a white solid. The suspension was filtered and the solid washed with water and diethyl ether. The collected solid was recrystallised from hot acetonitrile and ethanol (1:1 v/v) to afford the title compound as a white solid, 0.1929 mg, 27% yield.

reactant | tert-butyl 4-(5-chloro-2-hydroxyphenyl)piperidine-1-carboxylate | 0.0014 mol, 0.500 g | ClC=1C=CC(=C(C1)C1CCN(CC1)C(=O)OC(C)(C)C)O | C16H22ClNO3
reactant | potassium carbonate | 0.00419 mol, 0.579 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 0.0014 mol, 0.644 g | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)F)F | C17H14ClF2N3O4S2
solvent | dimethyl sulfoxide | 5.0 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 10.0 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10.0 mL | O | H2O
product | tert-butyl 4-[5-chloro-2-(2-chloro-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}-5-fluorophenoxy)phenyl]piperidine-1-carboxylate | 1.03 g | ClC=1C=CC(=C(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=C(C=C(C(=C1)F)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)Cl | C33H35Cl2FN4O7S2
